US07754737B2
3-Oxocylobutanecarboxylic acid (12.2 g, <0.107 mol, 1.0 equiv) and DMAP (10.5 g, 0.856 mol) were dissolved in butanol (100 mL) and the mixture cooled to 0° C. DCC (24.2 g, 0.118 mol, 1.2 equiv) was added as a solid. The mixture was allowed to stir for 15 h with concomitant warming to rt. The mixture was filtered through a pad of Celite. The filter cake was washed with hexanes. The filtrate was washed with 1.0 M aq HCl, sat'd aq NaHCO3 and brine. Evaporation of the solvent afforded a brown oil. This was purified by flash chromatography (SiO2, O-20% EtOAc). The fractions which stained with 2,4-dinitrophenylhydrazine on tlc were pooled and evaporated to yield a pale yellow oil which was dissolved in hexane and filtered through Celite. The filtrate was evaporated to yield butyl 3-oxocylobutanecarboxylate (4.97 g) as a clear oil.

reactant | 3-Oxocylobutanecarboxylic acid | <0.107 mol, 12.2 g, 1.0 equiv | O=C1CC(C1)C(=O)O | C5H6O3
reactant | DCC | 0.118 mol, 24.2 g, 1.2 equiv | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.856 mol, 10.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | butanol | 100 mL | C(CCC)O | C4H10O
solvent | hexane | CCCCCC | C6H14
product | butyl 3-oxocylobutanecarboxylate | 4.97 g | O=C1CC(C1)C(=O)OCCCC | C9H14O3
